OpenCircuit factory test: 2N7000 off-state boundary
* OpenCircuit Model Factory v0.1.0
* Original work generated from public factual specifications.
* This model is not a copy of, or adaptation from, any vendor SPICE model.
* Source: https://www.onsemi.cn/download/data-sheet/pdf/2n7000-d.pdf
* Revision: Rev. 8, April 2011
* Node order: drain gate source
.model OC_2N7000 VDMOS(VTO=1.9000000000e+00 KP=2.0000000000e-01 THETA=0.0000000000e+00 LAMBDA=3.0000000000e-03 RD=2.7500000000e+00 RS=1.0000000000e+00 RG=1.0000000000e-04 CGS=5.5000000000e-11 CGDMAX=5.0000000000e-12 CGDMIN=5.0000000000e-12 A=1.0000000000e+00 CJO=1.1337000000e-10 IS=1.0000000000e-14 N=1.5000000000e+00 RB=1.0000000000e+00 TT=0.0000000000e+00 BV=6.0000000000e+01 IBV=1.0000000000e-02 RTHJC=0.0000000000e+00 RTHCA=3.5700000000e+02 RDS=1e9 VJ=0.8 M=0.5 FC=0.5 NBV=1 TNOM=27)
.temp 25
M1 d g 0 OC_2N7000
VD d 0 48
VG g 0 0
.op
.end
